US04343811
2-[3-(4-Chloro-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid
A solution of 6.0 g (60 m mole) of chromium trioxide in 50 ml of glacial acetic acid and 5 ml of water was added dropwise to a mixture of 19.0 g (55 m mole) of 2-[3-(4-chloro-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methylpropanol, 50 ml of glacial acetic acid, 10 ml of water, and 5 ml of conc. sulfuric acid under stirring. After standing overnight, the reaction mixture was warmed for one hour on a steam bath. Subsequently the mixture was extracted with chloroform. The chloroform extracts were dried, and the evaporation residue was chromatographed on silicagel with chloroform/methanol (8:2) as eluant.

reactant | 2-[3-(4-chloro-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methylpropanol | 19.0 g | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(CO)(C)C)C)C | C20H22ClNO2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
catalyst | chromium trioxide | 6.0 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-[3-(4-Chloro-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(C(=O)O)(C)C)C)C | C20H20ClNO3
